US07576215B2
4-(4-TERT-BUTYLPHENYL)-3-(PYRIDIN-2-YLMETHYL)-8-(TRIFLUOROMETHYL)QUINOLINE
This compound was prepared using the procedure of Example 31 substituting [4-(4-tert-butylphenyl)-8-(trifluoromethyl)quinolin-3-yl](pyridin-2-yl)methanone. of Example 18 for 2 phenyl[4-phenyl-8-(trifluoromethyl)quinolin-3-yl]methanone. MS (ESI) m/z 421 ([M+H]+); Anal. Calcd for C26H23F3N2: C, 74.27; H, 5.51; N, 6.66. Found: C, 73.94; H, 5.30; N, 6.53.

reactant | [4-(4-tert-butylphenyl)-8-(trifluoromethyl)quinolin-3-yl](pyridin-2-yl)methanone | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=NC=CC=C1 | C26H21F3N2O
reactant | phenyl[4-phenyl-8-(trifluoromethyl)quinolin-3-yl]methanone | C1(=CC=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C23H14F3NO
product | 4-(4-TERT-BUTYLPHENYL)-3-(PYRIDIN-2-YLMETHYL)-8-(TRIFLUOROMETHYL)QUINOLINE | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)CC1=NC=CC=C1 | C26H23F3N2
